US08476261B2
To a solution of 1-(tert-butoxycarbonylamino)cyclopentanecarboxylic acid (6.57 g, 28.4 mmol) in THF (60 mL) was added LiAlH4 (2.89 g, 61.0 mol) at room temperature. After stirred for 5 h, the reaction mixture was poured into ice-water and stirred for 30 min. To the mixture was added AcOEt and stirred for 30 min. The mixture was filtered and the filtrate was extracted with AcOEt. The extraction mixture was washed with water and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by column chromatography (Hexane:AcOEt 1:1) to give [3-(tert-butoxycarbonylamino)oxolan-3-yl]methanol (2.82 g, 46%) as a colorless solid. 1H-NMR (400 MHz, DMSO-d6) δ1.36 (9H, s), 1.84-1.91 (1H, m), 1.93-2.02 (1H, m), 3.46 (2H, d, J=5.5 Hz), 3.59-3.62 (1H, d, J=8.6 Hz), 3.66-3.70 (3H, m), 4.83 (1H, t, J=5.5 Hz), 6.78 (1H, brs).

reactant | 1-(tert-butoxycarbonylamino)cyclopentanecarboxylic acid | 28.4 mmol, 6.57 g | C(C)(C)(C)OC(=O)NC1(CCCC1)C(=O)O | C11H19NO4
reactant | LiAlH4 | 61.0 mol, 2.89 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | [3-(tert-butoxycarbonylamino)oxolan-3-yl]methanol | 2.82 g, 46% | C(C)(C)(C)OC(=O)NC1(COCC1)CO | C10H19NO4
